US05324743
C. 6-[3-(4-Acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-9-oxo-9H-xanthene-2-carboxylic Acid Disodium Salt Sesquihydrate
A mixture of 6-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-9-oxo-9H-xanthene-2-carboxylic acid methyl ester (380 mg) and 5N aqueous sodium hydroxide solution (4 mL) in 1:1 methanol/tetrahydrofuran (20 mL) was stirred at room temperature for 24 hours. The mixture was acidified with aqueous 5N hydrochloric acid solution and the resulting precipitate was collected via vacuum filtration. This material was dissolved in a minimum of aqueous 1N sodium hydroxide solution and purified on MCI HP-20™ resin using a water/acetonitrile gradient. Lyophilization of the appropriate fractions provided 120 mg (35%) of the title product as a fluffy white solid: 1H-NMR (DMSO-d6) 8.64 (d, J=2 Hz, 1H), 8.27 (dd, J=9, 2 Hz, 1H), 8.05 (d, J=9 Hz, 1H), 7.59 (s, 1H), 7.44 (d, J=9 Hz, 1H), 7.13 (d, J= 2 Hz, 1H), 7.01 (dd, J=9, 2 Hz, 1H), 6.54 (s, 1H), 4.32 (t, J=5 Hz, 2H), 4.21 (t, J=6 Hz, 2H), 2.51 (m, 5H), 2.25 (quintet, J=5 Hz, 2H), 1.10 (t, J=8 Hz, 3H); MS-FAB (m/e) 521 (p+1, 35), 500 (22), 499 (63), 477 (18); IR (CHCl3, cm-1) 3450 (b), 2976, 1620, 1401, 1268, 1162, 1049. Anal. (C27H22O8Na2 . 1.5 H2O):

reactant | 6-[3-(4-acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-9-oxo-9H-xanthene-2-carboxylic acid methyl ester | 380 mg | COC(=O)C1=CC=2C(C3=CC=C(C=C3OC2C=C1)OCCCOC1=C(C=C(C(=C1)O)C(C)=O)CC)=O | C28H26O8
reactant | sodium hydroxide | 5N, 4 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | methanol tetrahydrofuran | 20 mL | CO.O1CCCC1
product | 6-[3-(4-Acetyl-2-ethyl-5-hydroxyphenoxy)propoxy]-9-oxo-9H-xanthene-2-carboxylic Acid Disodium Salt Sesquihydrate | 120 mg, 35% | O.[Na+].[Na+].C(C)(=O)C1=CC(=C(OCCCOC=2C=C3OC=4C=CC(=CC4C(C3=CC2)=O)C(=O)[O-])C=C1O)CC.O.O.C(C)(=O)C1=CC(=C(OCCCOC=2C=C3OC=4C=CC(=CC4C(C3=CC2)=O)C(=O)[O-])C=C1O)CC.C(C)(=O)C1=CC(=C(OCCCOC=2C=C3OC=4C=CC(=CC4C(C3=CC2)=O)C(=O)[O-])C=C1O)CC.C(C)(=O)C1=CC(=C(OCCCOC=2C=C3OC=4C=CC(=CC4C(C3=CC2)=O)C(=O)[O-])C=C1O)CC.[Na+].[Na+] | InChI=1S/4C27H24O8.4Na.3H2O/c4*1-3-16-11-20(15(2)28)22(29)14-24(16)34-10-4-9-33-18-6-7-19-25(13-18)35-23-8-5-17(27(31)32)12-21(23)26(19)30;;;;;;;/h4*5-8,11-14,29H,3-4,9-10H2,1-2H3,(H,31,32);;;;;3*1H2/q;;;;4*+1;;;/p-4
